US07705042B2
b) 4-(4-Methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazine-1-carboxylic acid benzyl ester
A solution of 6′-chloro-4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl (as prepared in the previous step, 2.0 g, 7.8 mmol) in DMF (40 mL) was treated with solid Na2CO3 (0.99 g, 9.4 mmol) and piperazine-1-carboxylic acid benzyl ester (1.5 mL, 7.8 mmol), then heated to 90° C. for 1 h and to 40° C. for 15 h. The reaction was concentrated to 20 mL volume, diluted with EtOAc, and washed well with water. The combined aqueous layers were further extracted with EtOAc. The combined organic layers were dried over MgSO4 and concentrated in vacuo. Silica gel chromatography (25% EtOAc in hexane) afforded the title compound (3.2 g, 94%) as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 8.19 (d, 1H, J=9.2 Hz), 7.39-7.31 (m, 5H), 6.01 (d, 1H, J=9.2 Hz), 5.16 (s, 2H), 3.84-3.76 (m, 2H), 3.71-3.65 (m, 4H), 3.64-3.58 (m, 4H), 3.02-2.93 (m, 2H), 1.74-1.65 (m, 2H), 1.66-1.60 (m, 1H), 1.38-1.26 (m, 2H), 0.97 (d, 3H, J=6.4 Hz). LC-MS (ESI, m/z): Calcd. for C23H29N5O4, 440.2 (M+H), found 439.9.

reactant | 6′-chloro-4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl | ClC1=CC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C11H14ClN3O2
reactant | Na2CO3 | 9.4 mmol, 0.99 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | piperazine-1-carboxylic acid benzyl ester | 7.8 mmol, 1.5 mL | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazine-1-carboxylic acid benzyl ester | 3.2 g, 94% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C23H29N5O4
